US08334236B2
(2) Production of ethyl 2-oxo-1,2-dihydroquinoline-3-carboxylate
29.0 g (0.21 mol) of diethyl 2-(2-nitrobenzylidene)malonate was added to 100 mL of acetic acid at room temperature, and the mixture was heated to 80° C. 37.0 g (0.66 mol) of an iron powder was slowly added to the above mixture, and thus the reaction temperature increased to 100° C. After the reaction temperature decreased, the reaction was carried out at 80° C. for 5 hours. The reaction mixture was cooled to room temperature, and then ethyl acetate and water were added thereto. Insoluble materials were filtered off, and the filtrate was neutralized by adding sodium hydrogen carbonate. A solid precipitated therefrom was separated by filtration, and this solid was dissolved in ethyl acetate. The filtrate was further extracted with ethyl acetate, and the extract was combined with the solution mentioned above. This solution was washed with citric acid and water in this order, and was dried and concentrated. The residue was washed with diisopropyl ether, and thus 13.6 g (yield: 63%) of the title compound was obtained as pale yellow crystals.

reactant | diethyl 2-(2-nitrobenzylidene)malonate | 0.21 mol, 29.0 g | [N+](=O)([O-])C1=C(C=C(C(=O)OCC)C(=O)OCC)C=CC=C1 | C14H15NO6
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 0.66 mol, 37.0 g | [Fe] | Fe
solvent | water | O | H2O
product | ethyl 2-oxo-1,2-dihydroquinoline-3-carboxylate | 13.6 g, yield: 63% | O=C1NC2=CC=CC=C2C=C1C(=O)OCC | C12H11NO3
